US07335799B2
A solution of KOH (25 g) in water (50 mL) was added to a solution of 2,2,14,14-tetramethyl-8-oxo-pentadecanedioic acid diethyl ester (10.69 g, 155 mmol) in ethanol (400 mL), then heated at reflux for 4 h. After cooling, the solution was evaporated to a volume of ca. 50 mL and diluted with water (800 mL). The organic impurities were removed by extracting with dichloromethane (2×200 mL). The aqueous layer was acidified to pH 2 with concentrated hydrochloric acid (50 mL) and extracted with methyl tert.-butyl ether (MTBE, 3×200 mL). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to give the crude product (9.51 g) as an oil. Crystallization from hexanes/MTBE (50 mL: 25 mL) afforded 8-oxo-2,2,14,14-tetramethylpentadecanedioic acid (6.92 g, 79%) as waxy, white crystals. M.p.: 83-84° C. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 12.03 (s, 2H), 2.37 (t, 4H, J=7.3 Hz), 1.52-1.34 (m, 8H), 1.28-1.10 (m, 8H), 1.06 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 210.5, 178.8, 41.7, 41.2, 29.1, 25.0, 24.4, 23.1. HRMS (LSIMS, gly): Calcd. for C19H35O5 (MH+): 343.2484, found: 343.2485.

reactant | KOH | 25 g | [OH-].[K+]
reactant | 2,2,14,14-tetramethyl-8-oxo-pentadecanedioic acid diethyl ester | 155 mmol, 10.69 g | C(C)OC(C(CCCCCC(CCCCCC(C(=O)OCC)(C)C)=O)(C)C)=O | C23H42O5
solvent | water | 50 mL | O | H2O
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 8-oxo-2,2,14,14-tetramethylpentadecanedioic acid | 6.92 g, 79% | O=C(CCCCCC(C(=O)O)(C)C)CCCCCC(C(=O)O)(C)C | C19H34O5
